US08278302B2
3-Amino-5-(1-methyl-1H-tetrazol-5-yl)-benzoic acid ethyl ester
A solution of 3-(1-Methyl-1H-tetrazol-5-yl)-5-nitro-benzoic acid ethyl ester (6.5 g) in EtOAc:ethanol (1:1, 320 ml) was hydrogenated at 20° C. and 50 psi with 10% Pd/C (750 mg). After reaction completion, the mixture was filtered and the filtrate concentrated in vacuum to give the title compound (4.2 g). Rt=1.21 min (method D).

reactant | 3-(1-Methyl-1H-tetrazol-5-yl)-5-nitro-benzoic acid ethyl ester | 6.5 g | C(C)OC(C1=CC(=CC(=C1)[N+](=O)[O-])C1=NN=NN1C)=O | C11H11N5O4
solvent | EtOAc ethanol | 320 ml | CCOC(=O)C.C(C)O
catalyst | Pd/C | 750 mg | [Pd] | Pd
product | 3-Amino-5-(1-methyl-1H-tetrazol-5-yl)-benzoic acid ethyl ester | 4.2 g | C(C)OC(C1=CC(=CC(=C1)C1=NN=NN1C)N)=O | C11H13N5O2
